US05654326
4-Methoxy-2-methyl-1H-indole (805 mg, 5 mmol) was added to a mixture of 200 mg (5 mmol) of 60% sodium hydride/mineral oil (washed with hexane before adding DMF) in 10 mL of DMF and after stirring for 0.5 hours, 0.6 mL (5 mmol) of 4-fluorobenzyl chloride was added. The mixture was stirred at room temperature for 18 hours, diluted with water and extracted with ethyl acetate. The ethyl acetate solution was washed with brine, dried (MgSO4) and after concentrating at reduced pressure, the residue was chromatographed on silica gel eluting with 20% EtOAc/hexane to give 1.1 g (84% yield) of 1-[(4-fluorophenyl)methyl]-4-methoxy-2-methyl-1H-indole, melting at 104°-108° C.

reactant | 4-Methoxy-2-methyl-1H-indole | 5 mmol, 805 mg | COC1=C2C=C(NC2=CC=C1)C | C10H11NO
reactant | sodium hydride | 5 mmol, 200 mg | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 4-fluorobenzyl chloride | 5 mmol, 0.6 mL | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-4-methoxy-2-methyl-1H-indole | 1.1 g, 84% yield | FC1=CC=C(C=C1)CN1C(=CC2=C(C=CC=C12)OC)C | C17H16FNO
